US07772221B2
Step DL (1): A mixture of 28.7 mg (S)-2-(N-methylpentylsulfonamido)pent-4-enoic acid (0.11 mmol, from Preparation J), 24.8 mg 1-[3-(dimethyamino)propyl]-3-ethyl carbodiimide methiodide (0.083 mmol), 18 mg 1-hydroxybenzotriazole, 3 drops triethylamine and 1 mL dimethyl-formamide was stirred for 15 minutes at rt. The mixture was then added to 21 mg (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-dichloro-phenyl)butan-2-ol (0.046 mmoles, from Preparation BG) and the reaction mixture was allowed to stand at rt overnight. The reaction mixture was subjected to preparative HPLC, with the peak at 9.8 min collected to yield 14.1 mg (S)-N-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-yl-amino)-1-(3,5-dichlorophenyl)-3-hydroxybutan-2-yl)-2-(N-methylpentyl-sulfon-amido)pent-4-enamide as a clear oil. LC-MS Rt 2.18 min (method A), (M+H)+=696.0, 698.0; HRMS (M+H)+=696.2653; 1H NMR (500 MHz, CDCl3) δ 7.31 (d, J=8.2, 1H) 7.19 (s, 1H) 7.14 (s, 2H) 6.94 (d, J=2.1, 1H) 6.84 (d of d, J=8.2, 2.4, 1H) 6.68 (d, J=9.1, 1H) 5.95 (m, 1H) 5.69 (m, 1H) 5.31 (d, J=17, 1H) 5.2-5.08 (m, 3H) 4.77 (t, J=5.5, 1H) 4.17 (d of d, J=9.5, 5.7, 1H) 4.10 (m, 1H) 3.80 (s, 3H) 3.51 (m, 1H) 3.12 (d of d, J=14.3, 3.7, 1H) 2.90 (m, 4H) 2.67 (m, 4H) 2.54 (s, 3H) 2.31 (m, 2H) 1.93 (d, J=13.4 of t, J=4.6, 1H) 1.75 (m, 2H) 1.33 (m, 4H) 0.90 (t, J=7, 3H).

reactant | (S)-2-(N-methylpentylsulfonamido)pent-4-enoic acid | 0.11 mmol, 28.7 mg | CN(S(=O)(=O)CCCCC)[C@H](C(=O)O)CC=C | C11H21NO4S
reactant | 1-[3-(dimethyamino)propyl]-3-ethyl carbodiimide methiodide | 0.083 mmol, 24.8 mg | CCN=C=NCCC[N+](C)(C)C.[I-]
reactant | 1-hydroxybenzotriazole | 18 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (2R,3S)-1-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-ylamino)-3-amino-4-(3,5-dichloro-phenyl)butan-2-ol | 0.046 mmoles, 21 mg | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)Cl)Cl)N)O | C23H28Cl2N2O3
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
solvent | dimethyl-formamide | 1 mL | CN(C=O)C | C3H7NO
product | (S)-N-((2S,3R)-4-((1S,3R)-3-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-yl-amino)-1-(3,5-dichlorophenyl)-3-hydroxybutan-2-yl)-2-(N-methylpentyl-sulfon-amido)pent-4-enamide | 14.1 mg | C(C=C)O[C@@H]1C[C@@H](C2=CC(=CC=C12)OC)NC[C@H]([C@H](CC1=CC(=CC(=C1)Cl)Cl)NC([C@H](CC=C)N(S(=O)(=O)CCCCC)C)=O)O | C34H47Cl2N3O6S
